US04528379
3.1 g (0.07 mol) of lithium hydroxide hydrate are added in portions, at 0° C., to 16.7 g (0.07 mol) of 3-trichloromethyl-5-chloro-1,2,4-thiadiazole and 11.8 g (0.07 mol) of hydroxyacetic acid N-methyl-N-cyclohex-1-enylamide in 100 ml of methyl isobutyl ketone, and the mixture is stirred for 30 minutes at 0° C. and then overnight at 25° C. After water has been added, the reaction product which separates out as a solid is filtered off under suction, washed and dried. 22.0 g (84.8% of theory) of 3-trichloromethyl-1,2,4-thiadiazol-5-yl-oxyacetic acid N-methyl-N-cyclohexen-1-yl-amide are obtained in the form of beige-colored crystals of melting point 78° C.

reactant | lithium hydroxide hydrate | 0.07 mol, 3.1 g | O.[OH-].[Li+]
reactant | 3-trichloromethyl-5-chloro-1,2,4-thiadiazole | 0.07 mol, 16.7 g | ClC(C1=NSC(=N1)Cl)(Cl)Cl | C3Cl4N2S
reactant | hydroxyacetic acid N-methyl-N-cyclohex-1-enylamide | 0.07 mol, 11.8 g | CN(C(CO)=O)C1=CCCCC1 | C9H15NO2
reactant | water | O | H2O
solvent | methyl isobutyl ketone | 100 ml | C(C(C)C)C(=O)C | C6H12O
product | 3-trichloromethyl-1,2,4-thiadiazol-5-yl-oxyacetic acid N-methyl-N-cyclohexen-1-yl-amide | 22.0 g, 84.8% | CN(C(COC1=NC(=NS1)C(Cl)(Cl)Cl)=O)C1=CCCCC1 | C12H14Cl3N3O2S
